US05122523
238 mg of tert-butyl 2-(2,3-ethylenedioxybenzyl)-3-hydroxypropionate was dissolved in 4 ml of dry pyridine, and 170 mg of p-toluenesulfonyl chloride was added thereto. The mixture was reacted at room temperature overnight and then concentrated under reduced pressure. The residue was dissolved in 50 ml of ethyl acetate and washed sequentially with 50 ml of a 5% potassium hydrogensulfate aqueous solution, with 50 ml of a 4% sodium hydrogencarbonate aqueous solution and with 50 ml of a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous magnesium sulfate, then concentrated under reduced pressure and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to obtain 257 mg of tert-butyl 2-(2,3-ethylenedioxybenzyl)-3-p-toluenesulfonyloxypropionate as colorless transparent syrup.

reactant | tert-butyl 2-(2,3-ethylenedioxybenzyl)-3-hydroxypropionate | 238 mg | C1OC2=C(CC(C(=O)OC(C)(C)C)CO)C=CC=C2OC1 | C16H22O5
reactant | p-toluenesulfonyl chloride | 170 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl 2-(2,3-ethylenedioxybenzyl)-3-p-toluenesulfonyloxypropionate | 257 mg | C1OC2=C(CC(C(=O)OC(C)(C)C)COS(=O)(=O)C3=CC=C(C=C3)C)C=CC=C2OC1 | C23H28O7S
